US05523444
In the same apparatus and procedures as EXAMPLE 1, 19.3 g (210 mmol) of toluene and 0.9 g (7.0 mmol) of aluminum chloride were placed and reacted with 10.0 g (70 mmol) of allyldichlorosilane under the dry nitrogen atmosphere for 30 min. After stirring the solution for another an hour, 2.0 g (30 mmol) of sodium chloride was added to reaction mixture, warmed up to 50° C. and stirred for two hours to deactivate the catalyst. Vacuum distillation of the reaction products gave 11.7 g (bp, 73°-76° C./0.5 mmHg) of of 3-(methylphenyl)-1,1-dichloro-1-silabutane in 71% yield.

reactant | toluene | 210 mmol, 19.3 g | C1(=CC=CC=C1)C | C7H8
reactant | aluminum chloride | 7.0 mmol, 0.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | allyldichlorosilane | 70 mmol, 10.0 g | C(C=C)[SiH](Cl)Cl | C3H6Cl2Si
reactant | sodium chloride | 30 mmol, 2.0 g | [Cl-].[Na+]
product | 3-(methylphenyl)-1,1-dichloro-1-silabutane | 71% yield | CC1=C(C=CC=C1)C(C[SiH](Cl)Cl)C | C10H14Cl2Si
